US05374656
The procedure is carried out in a manner analogous to that described in Example 1, but using 2.3 g of 2,2,2-trifluoroethyl 2-anilinoacetate, 2.1 g of 2-[3-(3-methylphenyl)ureido]acetic acid and 0.7 cm3 of thionyl chloride as starting materials. The product obtained is purified by chromatography on 40 g of silica (0.063-0.200 mm) contained in a column 1.5 cm in diameter [eluent: methylene chloride/ethanol (98/2 by volume)], collecting 10-cm3 fractions. Fractions 5 to 8 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization from diisopropyl ether, 0.6 g of 2,2,2-trifluoroethyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate melting at 172° C. is obtained.

reactant | 2,2,2-trifluoroethyl 2-anilinoacetate | 2.3 g | N(C1=CC=CC=C1)CC(=O)OCC(F)(F)F | C10H10F3NO2
reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 2.1 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | thionyl chloride | 0.7 cm3 | S(=O)(Cl)Cl | Cl2OS
product | 2,2,2-trifluoroethyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate | 0.6 g | CC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(=O)OCC(F)(F)F)=O | C20H20F3N3O4
